US07087609B2
(S)-3-(4-Fluorophenyl)-N-{1-[3-(4-pyridin-2-ylpiperazin-1-yl)phenyl]ethyl}-acrylamide
A solution of 4-fluorocinnamic acid (17 mg, 0.1 mmol), (S)-1-[3-(4-pyridin-2-yl-piperazin-1-yl)phenyl]ethylamine (24 mg, 0.11 mmol), EDC (28 mg, 0.15 mmol), DMAP (12 mg, 0.1 mmol) and triethylamine (40 mg, 0.4 mmol) in dichloromethane (2 ml) was stirred at room temperature for 14 h. The reaction mixture was purified by flash chromatography over silica gel with ethyl acetate/hexanes (1:1) to give the title compound as a solid (26 mg, 60% yield).

reactant | 4-fluorocinnamic acid | 0.1 mmol, 17 mg | FC1=CC=C(C=CC(=O)O)C=C1 | C9H7FO2
reactant | (S)-1-[3-(4-pyridin-2-yl-piperazin-1-yl)phenyl]ethylamine | 0.11 mmol, 24 mg | N1=C(C=CC=C1)N1CCN(CC1)C=1C=C(C=CC1)[C@H](C)N | C17H22N4
reactant | EDC | 0.15 mmol, 28 mg
reactant | triethylamine | 0.4 mmol, 40 mg | C(C)N(CC)CC | C6H15N
catalyst | DMAP | 0.1 mmol, 12 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | (S)-3-(4-Fluorophenyl)-N-{1-[3-(4-pyridin-2-ylpiperazin-1-yl)phenyl]ethyl}-acrylamide | 26 mg, 60% yield | FC1=CC=C(C=C1)C=CC(=O)N[C@@H](C)C1=CC(=CC=C1)N1CCN(CC1)C1=NC=CC=C1 | C26H27FN4O
